US07018997B2
Step 4: Preparation of 7,8-dihydro-5H-pyrano[4.3-d]pyrazolo[5,1-b][1,3]oxazol-2-carbaldehyde:
To the stirred solution of 7,8-dihydro-5H-pyrano[4,3-d]pyrazolo[5,1-b][1,3]oxazol-2-ylmethanol (1.0 g, 5.1 mmol) in 60 ml of CHCl3 was added 8 g of MnO2. Th suspension was refluxed for 1.5 hour under a nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated to give yellow oil. The product was purified by chromatography. 0.79 g of the product was obtained (80%); (M+H) 193

reactant | 7,8-dihydro-5H-pyrano[4,3-d]pyrazolo[5,1-b][1,3]oxazol-2-ylmethanol | 5.1 mmol, 1.0 g | N1=C(C=C2OC3=C(N21)CCOC3)CO | C9H10N2O3
solvent | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 8 g | O=[Mn]=O
product | 7,8-dihydro-5H-pyrano[4.3-d]pyrazolo[5,1-b][1,3]oxazol-2-carbaldehyde | 0.79 g | N1=C(C=C2OC3=C(N21)CCOC3)C=O | C9H8N2O3
